* C:\Users\Jerri\OneDrive - Stellenbosch University\3rd Year EE\E Design 344\E344\LTSpice\Draft1.asc
R1 out N001 47k
C1 out 0 270n
V1 N001 0 PWL(0 0 50m 400m)
.tran 0 500m 0 1u
.backanno
.end
