* C:\Users\Jerri\OneDrive - Stellenbosch University\3rd Year EE\E Design 344\E344\LTSpice\Marais_21642818_A1 - Copy.asc
V2 N002 N001 PWL file=PWLinput.csv
V3 Stimulus N002 SINE({sineOffset} {sineAmplitude} {sineFreq})
V1 N001 0 {dcAmplitude}
V4 N003 0 9
R_Sense 9V N003 0.010
XU1 9V 0 5V LM7805
C1 9V 0 0.33µ
C2 5V 0 0.1µ
R_load 5V 0 50
.tran 0 {transtop} 0 {timestep}
.include E344cfg.txt
* Don't change these -- used for auto-assessments.\nYou may modify input files while developing.\nFor submission: \n  * Use only 9V supply \n  * Connect "Stimulus" to your input\n  * Connect "Vout" to your output.\n  * Only one label name per net.
* Config file:
* Analysis setup:
* Battery
* Sensor-\nemulating \nstimulus
* Assessed nets:\nConnect to your outputs
* G. Marais.,  21642818\nV(0degV) = 620 mV\ndeltaV/degV = 20 mV
.include LM78XX_RS.lib
.include TLC2272.LIB
.include TL081.LIB
.meas Pout AVG V(5V)*I(R_load)
.meas Pin AVG -V(9V)*I(R_sense)
.meas Eff param Pout/Pin
.meas Iout AVG I(R_load)
.meas Iin AVG -I(R_sense)
.include LM2595_ADJ_TRANS.LIB
.include diode.lib
.lib C:\Users\Jerri\OneDrive - Stellenbosch University\3rd Year EE\E Design 344\E344\LTSpice\LM78XX_RS.lib
.backanno
.end
