* C:\Users\Jerri\OneDrive - Stellenbosch University\3rd Year EE\E Design 344\E344\LTSpice\Marais_21642818_A1.asc
V2 N002 N001 PWL file=PWLinput.csv
V3 Stimulus N002 SINE({sineOffset} {sineAmplitude} {sineFreq})
V1 N001 0 {dcAmplitude}
V4 N003 0 9
R_Sense 9V N003 0.010
XU1 9V 0 5V LM7805
C1 9V 0 0.33µ
C2 5V 0 0.1µ
XU2 Vref- N004 5V 0 N004 TL081
XU3 N007 N005 5V 0 N006 TLC2272
R2 Vref- 0 300
R1 5V Vref- 47k
Rg N005 N004 3.9k
Rf N006 N005 110k
Rb1 5V N007 82k
Rb2 N007 0 82k
Cs N007 0 2.2µ
Rs N007 Stimulus 10k
R_lpf Vout N006 47k
C_lpf Vout 0 270n
R_vg N007 0 300k
.tran 0 {transtop} 0 {timestep}
.include E344cfg.txt
* Don't change these -- used for auto-assessments.\nYou may modify input files while developing.\nFor submission: \n  * Use only 9V supply \n  * Connect "Stimulus" to your input\n  * Connect "Vout" to your output.\n  * Only one label name per net.
* Config file:
* Analysis setup:
* Battery
* Sensor-\nemulating \nstimulus
* Assessed nets:\nConnect to your outputs
* G. Marais.,  21642818\nV(0degV) = 620 mV\ndeltaV/degV = 20 mV
.include LM78XX_RS.lib
.include TLC2272.LIB
.include TL081.LIB
;meas Pout AVG V(5V)*I(R_load)
;meas Eff param Pout/Pin
;meas Iout AVG I(R_load)
.include LM2595_ADJ_TRANS.LIB
.include diode.lib
.meas Pin AVG -V(9V)*I(R_sense)
.meas Iin AVG -I(R_sense)
.lib C:\Users\Jerri\OneDrive - Stellenbosch University\3rd Year EE\E Design 344\E344\LTSpice\LM78XX_RS.lib
.backanno
.end
