* C:\Users\Jerri\Desktop\Assignment2\21642818_Marais.asc
V2 N004 N003 PWL file=PWLinput.csv
V3 Stimulus N004 SINE({sineOffset} {sineAmplitude} {sineFreq})
V1 N003 0 {dcAmplitude}
V4 N010 0 9
R_Sense 9V N010 0.010
XU1 9V 0 5V LM7805
C1 9V 0 0.33µ
C2 5V 0 0.1µ
V5 VBeat 0 PWL file=BPM120.csv
Rvgnd1 5V N009 20k
Rvgnd2 N009 0 20k
C3 N001 Stimulus 1.5µ
C4 N006 N001 1.5µ
R5 N002 N001 130k
R6 VGND N006 130k
R7 VGND N007 12k
R8 N002 N007 20k
XU2 N006 N007 5V 0 N002 TL081
XU3 N009 VGND 5V 0 VGND TL081
R9 N008 N002 180K
C5 N008 0 180n
XU4 filtered N005 5V 0 VoutBeatPulses TLC2272
C6 filtered 0 180n
R12 filtered N008 180K
R10 5V N005 20k
R11 N005 0 20k
.tran 0 {transtop} 0 {timestep}
.include E344cfg.txt
* Don't change these -- used for auto-assessments.\nYou may modify input files while developing.\nFor submission: \n  * Use only 9V supply \n  * Connect "Stimulus" to your input\n  * Connect "VoutXXXX" to your output signals.\n  * Only one label name per net.
* Config file:
* Analysis setup:
* Battery
* Sensor-\nemulating \nstimulus
* Assessed nets:\nConnect to your outputs
* G. Maraist.,  21642818\nDC = 1700 mV\nHeart rate pk = 61.05 mV
.incl LM78XX_RS.lib
.incl TL081.lib
.incl diode.lib
.incl TLC2272.LIB
.meas i(R_sense)
.lib LM78XX_RS.lib
.backanno
.end
