* C:\Users\Jerri\OneDrive - Stellenbosch University\3rd Year EE\E Design 344\E344\Python\Assignment3\E344_A3_heart.asc
V1 Vheartsensor 0 PWL file=HeartSensorPWL.csv
V4 N005 0 9
R_Sense 9V N005 0.010
XU1 9V 0 5V LM7805
C1 9V 0 0.1µ
C2 5V 0 0.33µ
Rvgnd1 5V N012 560k
Rvgnd2 N012 0 560k
XU2 N012 VGND 5V 0 VGND TL081
C3 N003 Vheartsensor 1.5µ
C4 N006 N003 1.5µ
R1 N004 N003 130k
R2 VGND N006 130k
R3 VGND N007 15k
R4 N004 N007 22k
XU3 N006 N007 5V 0 N004 TL081
R5 VGND N010 15k
R6 N002 N010 22k
XU5 N009 N010 5V 0 N002 TL081
R7 N001 N004 130k
R8 N009 N001 130k
C5 N002 N001 0.33µ
C6 VGND N009 0.33µ
XU6 N002 N008 5V 0 Vheartpulsesout TLC2272
R9 5V N008 330k
R10 N008 N011 330k
R11 N011 0 20k
.tran 0 {transtop} 0 {timestep}
.include A3heartcfg.txt
* Don't change these -- used for auto-assessments.\nYou may modify input files while developing.\nFor submission: \n  * Use only 9V supply \n  * Connect "Vheartsensor" to your \n               conditioning circuit's input\n  * Connect "Vheartpulsesout" to your output signal.\n  * Only one label name per net.
* Config file:
* Analysis setup:
* Battery
* Sensor-\nemulating \nstimulus
* =============================\nREPLACE WITH YOUR DETAILS\nG. Marais.,  21642818\nVheartsensor offset = 1700 mV\nVheartsensor ampl = 61.05 mV\n=============================
* ==========================================================================================\nHeart signal conditioning circuit (only copy and paste the given op-amps, or use those given in the working directory only)\n==========================================================================================
* =============================\nVoltage regulation (complete this)\n=============================
.incl TLC2272.LIB
.incl TL081.LIB
.incl LM78XX_RS.lib
* Connect to your conditioning circuit's output
* =============================\nIncludes (don't fiddle with this!!)\n=============================
* =======================================\nYour circuit goes here, these are just placeholders.\n=======================================
.lib LM78XX_RS.lib
.backanno
.end
